US04740509
3-(13-Bromo-6-methyl-2-methylthio-8α-ergolinyl)-1,1-diethylurea
A solution is prepared from 11.2 g of 3-(6-methyl-2-methylthio-8α-ergolinyl)-1,1-diethylurea (29 mmol) in 400 ml of methylene chloride p.a. and, at room temperature, 1.45 ml of bromine (26 mmol) dissolved in 100 ml of methylene chloride p.a. is added dropwise thereto within 20 minutes. After 15 minutes of agitation, the solvent is distilled off under vacuum, the residue is taken up in methylene chloride and methanol, and crystallized by adding ethyl acetate with a small amount of diisopropyl ether and by removing the readily volatile solvents by distillation.

reactant | 3-(6-methyl-2-methylthio-8α-ergolinyl)-1,1-diethylurea | 29 mmol, 11.2 g | CN1C[C@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)SC)NC(N(CC)CC)=O | C21H30N4OS
reactant | bromine | 26 mmol, 1.45 ml | BrBr | Br2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(13-Bromo-6-methyl-2-methylthio-8α-ergolinyl)-1,1-diethylurea | BrC=1C=C2NC(=C3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)C)SC | C21H29BrN4OS
